US09447039B2
To a solution of ethyl 4-cyano-1H-indole-2-carboxylate (I-3a: 330 mg, 1.542 mmol) in ethanol (10 mL) was added LiOH.H2O (129 mg, 3.08 mmol) and the mixture was refluxed for 16 h. The solvent was evaporated under reduced pressure and the residue diluted with water (10 mL). The aqueous layer was acidified with 10% aq. HCl solution to pH 6.0 and the precipitated solid was filtered. The residue was washed with water and dried under vacuum to afford 250 mg (87%) of 4-cyano-1H-indole-2-carboxylic acid (I-3b) as an off-white solid.

reactant | ethyl 4-cyano-1H-indole-2-carboxylate | 1.542 mmol, 330 mg | C(#N)C1=C2C=C(NC2=CC=C1)C(=O)OCC | C12H10N2O2
reactant | LiOH.H2O | 3.08 mmol, 129 mg | O[Li].O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-cyano-1H-indole-2-carboxylic acid | 250 mg, 87% | C(#N)C1=C2C=C(NC2=CC=C1)C(=O)O | C10H6N2O2
